US08686024B2
Synthesis of 1-benzylindolin-5-yl methylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (55.8 mg, 0.248 mmol) using the same procedure employed for Example 2 (2), but with methylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (43.8 mg, 63%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.248 mmol, 55.8 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | methylisocyanate | CN=C=O | C2H3NO
product | 1-benzylindolin-5-yl methylcarbamate | CNC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C17H18N2O2
